US09035064B2
Synthesis of N-(4-amino-1,2,5-oxadiazol-3-yl)-2-[(1,1-dioxido-1,2-thiazolidin-2-yl)methyl]-6-(trifluoromethyl)nicotinamide (Table example No. 1-207)
150 mg (0.46 mmol) of 2-[(1,1-dioxido-1,2-thiazolidin-2-yl)methyl]-6-(trifluoromethyl)nicotinic acid and 46 mg (0.46 mmol) of 3,4-diamino-1,2,5-oxadiazole are dissolved at RT in 10 ml of CH2Cl2, and 0.32 ml (2.31 mmol) of triethylamine, 11 mg (0.09 mmol) of DMAP and 442 mg (0.69 mmol) of 2,4,6-tripropyl-1,3,5,2,4,6-trioxatriphosphinane 2,4,6-trioxide (50% solution in THF) are added. The reaction mixture is stirred at RT for 20 h and then washed twice with 5 ml each time of water. The organic phase is dried over Na2SO4 and concentrated. The residue is purified by column chromatography (silica gel, heptane/ethyl acetate). Yield: 42 mg (22%).

reactant | 2-[(1,1-dioxido-1,2-thiazolidin-2-yl)methyl]-6-(trifluoromethyl)nicotinic acid | 0.46 mmol, 150 mg | O=S1(N(CCC1)CC1=C(C(=O)O)C=CC(=N1)C(F)(F)F)=O | C11H11F3N2O4S
reactant | 3,4-diamino-1,2,5-oxadiazole | 0.46 mmol, 46 mg | NC1=NON=C1N | C2H4N4O
reactant | triethylamine | 2.31 mmol, 0.32 ml | C(C)N(CC)CC | C6H15N
reactant | 2,4,6-tripropyl-1,3,5,2,4,6-trioxatriphosphinane 2,4,6-trioxide | 0.69 mmol, 442 mg | C(CC)P1(OP(OP(O1)(CCC)=O)(CCC)=O)=O | C9H21O6P3
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.09 mmol, 11 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-(4-amino-1,2,5-oxadiazol-3-yl)-2-[(1,1-dioxido-1,2-thiazolidin-2-yl)methyl]-6-(trifluoromethyl)nicotinamide | NC=1C(=NON1)NC(C1=C(N=C(C=C1)C(F)(F)F)CN1S(CCC1)(=O)=O)=O | C13H13F3N6O4S
